US09278973B2
A mixture of 2H-1,2,4-triazol-3-amine (200 mg, 2.38 mmol, 1.00 equiv), acetic acid (3 mL), and ethyl 3-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-3-oxopropanoate (600 mg, 2.40 mmol, 1.01 equiv) was stirred for 24 hr at 120° C. and then concentrated to dryness. The resulting solid was washed with MeOH and collected by filtration. The solid was dissolved in 15 mL of NH4OH (aq.) and filtered. The filtrate was adjusted to pH 5 with HOAc. The resulting solid was collected by filtration and washed with water. The solid was dried to get 95 mg (15%) of 5-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a white solid.

reactant | 2H-1,2,4-triazol-3-amine | 2.38 mmol, 200 mg, 1.00 equiv | N=1NC(=NC1)N | C2H4N4
reactant | ethyl 3-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-3-oxopropanoate | 2.40 mmol, 600 mg, 1.01 equiv | O1C2=C(OCC1)C=C(C=C2)C(CC(=O)OCC)=O | C13H14O5
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 5-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 95 mg, 15% | O1C2=C(OCC1)C=C(C=C2)C=2NC=1N(C(C2)=O)N=CN1 | C13H10N4O3
